Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Undifferentiated shock
 
Major Surgical or Invasive Procedure:
-intubated at OSH
-trialysis line
-CRRT
 
History of Present Illness:
___ with recurrent admissions for alcohol use disorder, opiate
use disorder on methadone 40mg who presented for progressive
lethargy to OSH, found to have GI bleed, acute renal failure,
acute liver failure.

Mother, who is an ___, has noticed that he has been more 
jaundiced
over the past few days with malaise. Today, mother reports
increased lethargy, and had several episodes of coffee ground
emesis. He was feeling ill with nausea/vomiting over the past 
few
days. He was feeling so unwell that he did not make it to his
___ clinic. He also was having poor urine output with pain
on urination as well. Additionally he was having day/night
reversal and worsening confusion. ___ more
unresponsive and has vomited several times of coffee ground
emesis. EMS was called. Arrived at ___. There,
he was initially verbal c/o dyspnea, malaise but shortly became
unresponsive and hypotensive 80/50, FSBG <20. He was found to
have a VBG 6.9/___, lactate of 15, hgb 11.6, WBC 12.6, plt 178, 
Cr
of 6.9 from baseline 0.8, Na 124, bili of 19, INR 3.2, and a 
MELD
of 44. ETOH was 300. Positive for methadone. Other tox screen
negative. He was intubated, OG tube with maroon emesis. Bedside
u/s w/o ascites. He was given vanc/cefepime, bicarb, 2u FFP, IV
PPI, octreotide gtt. A R femoral CVL and A-line was placed.
Noncon head CT w/o any acute intracranial process. Last gas 
prior
to transportation was 7.35/50.

Of note, patient was last seen at ___ in ___ for etoh
withdrawal, found to have unremarkable labs and an abdominal
ultrasound that revealed fatty liver changes/cirrhosis. 

On arrival to the ICU he is intubated and sedated. Not following
commands. Mother is present for the hx as described above. 
 
Past Medical History:
Alcohol Use Disorder
Depression
Opiate Use Disorder
 
Social History:
___
Family History:
Mother - stroke, hypertension, osteoporosis
Father - healthy
 
Physical ___:
ADMISSION PHYSICAL EXAM: 
======================== 
VS: Afebrile, HR 110, MAP 73, RR 23, O2 97% on FiO2 0.4
GEN:  Intubated, sedated
HEENT: ATNC. Icteric Sclerae.
NECK: Unable to evaluate JVP due to habitus. Trialysis line 
R-IJ.
CV: Tachycardic, RRR, no MRG
RESP:  Intubated. Rates low ___. Harsh breath sounds, b/l
GI:  Obese. Soft. Non-distended. No fluid wave appreciated. 
MSK: 2+ pitting edema b/l
SKIN: No rashes, lesions appreciated. Jaundiced
NEURO:  Intubated/sedated. Following commands.
PSYCH:  unable to evaluate due to sedation

DISCHARGE EXAM
===============
deceased
 
Pertinent Results:
Initial Labs:

___ 07:09PM BLOOD WBC-15.2* RBC-2.85* Hgb-10.5* Hct-31.5* 
MCV-111* MCH-36.8* MCHC-33.3 RDW-21.5* RDWSD-89.0* Plt ___
___ 07:09PM BLOOD Neuts-77.6* Lymphs-8.5* Monos-11.4 
Eos-0.1* Baso-0.4 NRBC-0.3* Im ___ AbsNeut-11.___* 
AbsLymp-1.29 AbsMono-1.74* AbsEos-0.01* AbsBaso-0.06
___ 07:09PM BLOOD Plt ___
___ 07:15PM BLOOD ___ PTT-58.4* ___
___ 07:15PM BLOOD ___ 07:15PM BLOOD Glucose-102* UreaN-20 Creat-6.3* Na-125* 
K-5.2 Cl-82* HCO3-13* AnGap-30*
___ 07:15PM BLOOD ALT-196* AST-1360* LD(LDH)-1861* 
AlkPhos-225* TotBili-20.2*
___ 07:15PM BLOOD CK-MB-18* cTropnT-0.12*
___ 07:15PM BLOOD Albumin-2.3* Calcium-7.3* Phos-7.2* 
Mg-2.0
___ 08:35PM BLOOD calTIBC-129* ___ TRF-99*
___ 07:15PM BLOOD Triglyc-252*
___ 08:35PM BLOOD Osmolal-358*
___ 08:35PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 08:35PM BLOOD HCV Ab-NEG
___ 07:20PM BLOOD Type-ART Temp-36.1 pO2-151* pCO2-34* 
pH-7.23* calTCO2-15* Base XS--12 Intubat-INTUBATED
___ 07:20PM BLOOD Glucose-101 Lactate-16.0* K-4.9
___ 07:20PM BLOOD freeCa-0.91*

Relevant Labs:

___ 07:09PM BLOOD WBC-15.2* RBC-2.85* Hgb-10.5* Hct-31.5* 
MCV-111* MCH-36.8* MCHC-33.3 RDW-21.5* RDWSD-89.0* Plt ___
___ 07:30AM BLOOD WBC-11.1* RBC-2.19* Hgb-8.4* Hct-24.0* 
MCV-110* MCH-38.4* MCHC-35.0 RDW-21.8* RDWSD-88.6* Plt Ct-PND
___ 12:49AM BLOOD ___ PTT-60.3* ___
___ 12:32AM BLOOD Glucose-97 UreaN-20 Creat-6.6* Na-125* 
K-5.5* Cl-78* HCO3-10* AnGap-37
___ 07:15PM BLOOD ALT-196* AST-1360* LD(LDH)-1861* 
AlkPhos-225* TotBili-20.2*
___ 07:15PM BLOOD CK-MB-18* cTropnT-0.12*
___ 12:32AM BLOOD CK-MB-20* cTropnT-0.15*
___ 07:15PM BLOOD Albumin-2.3* Calcium-7.3* Phos-7.2* 
Mg-2.0
___ 08:35PM BLOOD calTIBC-129* ___ TRF-99*
___ 07:15PM BLOOD Triglyc-252*
___ 08:35PM BLOOD Osmolal-358*
___ 07:20PM BLOOD Type-ART Temp-36.1 pO2-151* pCO2-34* 
pH-7.23* calTCO2-15* Base XS--12 Intubat-INTUBATED
___ 12:40AM BLOOD Type-ART Temp-37.4 pO2-114* pCO2-33* 
pH-7.16* calTCO2-12* Base XS--15 Intubat-INTUBATED
___ 05:54AM BLOOD Type-ART Temp-37.2 pO2-122* pCO2-30* 
pH-7.31* calTCO2-16* Base XS--9 Intubat-INTUBATED
___ 07:20PM BLOOD Glucose-101 Lactate-16.0* K-4.9
___ 12:40AM BLOOD Glucose-91 Lactate-19*
___ 05:54AM BLOOD Glucose-267* Lactate-17* Na-126*

___ 04:15AM BLOOD WBC-16.5* RBC-2.26* Hgb-8.6* Hct-25.3* 
MCV-112* MCH-38.1* MCHC-34.0 RDW-22.3* RDWSD-92.0* Plt ___
___ 04:15AM BLOOD Plt ___
___ 04:15AM BLOOD ___ PTT-63.1* ___
___ 10:30AM BLOOD Glucose-110* UreaN-4* Creat-1.8* Na-134* 
K-4.4 Cl-94* HCO3-8* AnGap-32
___ 04:15AM BLOOD ALT-205* AST-1390* LD(LDH)-1530* 
AlkPhos-199* Amylase-16 TotBili-18.9*
___ 04:15AM BLOOD Lipase-42
___ 10:30AM BLOOD Calcium-6.7* Phos-3.6 Mg-2.2
___ 04:15AM BLOOD Ferritn-9935*
___ 04:15AM BLOOD Triglyc-594*
___ 10:27AM BLOOD Type-ART Temp-36.6 Tidal V-550 PEEP-12 
FiO2-40 pO2-135* pCO2-27* pH-7.10* calTCO2-9* Base XS--20 
As/Ctrl-ASSIST/CON Intubat-INTUBATED
___ 08:23AM BLOOD Glucose-72 Lactate-16.0* Na-131*
 
Brief Hospital Course:
___ was a ___ male with past medical history of 
significant EtOH use disorder, opiate use disorder on methadone, 
depression, who presented as a transfer from ___ 
___ in 3 pressor shock with evidence of acute liver failure 
and oliguric renal failure, positive ethanol, with suspicion of 
severe alcoholic hepatitis. 

He was intubated due to unresponsiveness, placed on CRRT for 
worsening renal failure and acidemia, and on 4 pressors and 
stress dose steroids, with broad spectrum antibiotics provided 
without clear source of infection. NAC was given for acute liver 
failure, and workup was negative for alternative cause of 
hepatic failure beyond ethanol alcohol. He had coaguloaphty and 
both upper GI bleeding (scoped by GI, no varices, 2 shallow 
___ tears, no intervention needed) and nasopharyngeal 
bleeding (packed by ENT). His lactate continued to rise despite 
adequate pressures, raising concern for ischemic bowel, but he 
was unstable for CT scan. Infectious workup failed to reveal any 
source of infection or culture any pathogen.

On day of death, despite 4 pressors and sufficient systolic 
pressures, his diastolics were mainly in the ___, with worsening 
acidemia worsened despite CRRT and Bicarb drip, and rising 
lactate. After 3 days of aggressive supportive care, family 
decided to transition him to comfort measures only. He was 
palliatively extubated and pressors stopped at 1640, and he died 
at 1705.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methadone 40 mg PO DAILY 

 
Discharge Medications:
N/a deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Death from undifferentiated shock, alcoholic hepatitis
 
Discharge Condition:
Deceased
 
Discharge Instructions:
N/a deceased
 
Followup Instructions:
___